US07582629B2
2-Methyl-4-[(6-morpholin-4-ylpyridin-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 6-morpholin-4-ylpyridin-3-amine in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 3.20 (s, 3H), 3.26-3.30 (m, 4H), 3.65-3.70 (m, 4H), 6.31 (d, 1H), 6.94-6.99 (m, 1H), 7.11-7.22 (m, 4H), 7.25-7.30 (m, 1H), 7.58 (bs, 1H), 7.71 (d, 1H); Mass Spectrum: M−H+ 399.

reactant | 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C10H8ClNO3S
reactant | 6-morpholin-4-ylpyridin-3-amine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 2-Methyl-4-[(6-morpholin-4-ylpyridin-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | CN1S(C(=C(C1=O)NC=1C=NC(=CC1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C19H20N4O4S
